US04643990
Starting from N-hydroxysuccinimide ester of Nα -(3-hexadecanoyloxyoctadecanoyl)-Nε -benzyloxycarbonyl-L-lysine (3 g) prepared by the method described in Example 20 (1), and Nε -benzyloxycarbonyl-L-lysine (2.24 g), Nα -[Nα -(3-hexadecanoyloxyoctadecanoyl)-Nε -benzyloxycarbonyl-L-lysyl]-Nε -benzyloxycarbonyl-L-lysine (2.7 g) was obtained as crystals according to a similar manner to that of Example 16 (2).

reactant | Nα -(3-hexadecanoyloxyoctadecanoyl)-Nε -benzyloxycarbonyl-L-lysine | 3 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)CCCCCCCCCCCCCCC | C48H84N2O7
reactant | Nε -benzyloxycarbonyl-L-lysine | 2.24 g | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](N)C(=O)O | C14H20N2O4
product | Nα -[Nα -(3-hexadecanoyloxyoctadecanoyl)-Nε -benzyloxycarbonyl-L-lysyl]-Nε -benzyloxycarbonyl-L-lysine | 2.7 g | C(CCCCCCCCCCCCCCC)(=O)OC(CC(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)CCCCCCCCCCCCCCC | C62H102N4O10
